US06803374B2
2-[4-(Benzyloxy)phenyl]-1-cyclohexyl-5-(2-oxido-3H-1,2,3,5-oxathiadiazol-4-yl)-1H-benzimidazole
Thionyl chloride (0.010 mL, 0.14 mmol) was added dropwise to a suspension of 2-[4-(Benzyloxy)phenyl]-1-cyclohexyl-N′-hydroxy-1H-benzimidazole-5-carboximidamide (0.025 g, 0.057 mmol, see above for preparation) and pyridine (0.020 mL, 0.25 mmol) in tetrahydrofuran (2 mL) at 0° C. The resulting solution was stirred for 3 h, and then concentrated on a rotary evaporator. As starting material remained, the residue was resubjected to the reaction conditions (0.020 mL thionyl chloride and 0.040 mL pyridine). The residue was purified by reverse phase HPLC (C18 column, water/acetonitrile gradient containing 0.05% trifluoroacetic acid) to afford the product as a yellow solid (0.011 g, 32%). 1H NMR (CD3OD) δ 8.32 (d, 1H, J=8.8 Hz), 8.25 (s, 1H), 8.04 (d, 1H, J=8.8 Hz), 7.77 (d, 2H, J=9.1 Hz), 7.49 (d, 2H, J=6.6 Hz) 7.43-7.35 (m, 5H), 5.27 (s, 2H), 4.55 (m, 1H), 2.45 (m, 2H), 2.15 (m, 2H), 2.00 (m, 2H), 1.80 (m, 1H), 1.44 (m, 3H); ESI-MS m/e 487.3 (M+1); HPLC purity (ELSD)>95%.

reactant | Thionyl chloride | 0.14 mmol, 0.010 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[4-(Benzyloxy)phenyl]-1-cyclohexyl-N′-hydroxy-1H-benzimidazole-5-carboximidamide | 0.057 mmol, 0.025 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC2=C(N1C1CCCCC1)C=CC(=C2)C(N)=NO | C27H28N4O2
reactant | pyridine | 0.25 mmol, 0.020 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-[4-(Benzyloxy)phenyl]-1-cyclohexyl-5-(2-oxido-3H-1,2,3,5-oxathiadiazol-4-yl)-1H-benzimidazole | 0.011 g, 32% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC2=C(N1C1CCCCC1)C=CC(=C2)C=2NS(ON2)=O | C27H26N4O3S
